US03996159
Step C: 2-aminomethyl-5-chloro-3-(2,6-difluorophenyl)indole
Borane in tetrahydrofuran (7 ml of a 1M solution) is added to a solution of 1 g (3.46 mol) of 5-chloro-3-(2,6-difluorophenyl) indole-2-carbonitrile in 15 ml of dry tetrahydrofuran. The solution is stirred at room temperature for 2 hours and then refluxed for half an hour and cooled to room temperature. 5 ml of 5N aqueous HCl is added dropwise and the mixture is refluxed for 20 minutes. The mixture is then poured onto a mixture of ice and aqueous 10 percent ammonia, and the precipitate is extracted with chloroform. The chloroform layer is washed with water and dried over magnesium sulfate, filtered and evaporated to dryness. Recrystallization from chloroform (charcoal) affords colorless crystals; m.p. 212°-214°.

reactant | Borane | B | BH3
reactant | 5-chloro-3-(2,6-difluorophenyl) indole-2-carbonitrile | 3.46 mol, 1 g | ClC=1C=C2C(=C(NC2=CC1)C#N)C1=C(C=CC=C1F)F | C15H7ClF2N2
reactant | HCl | 5N, 5 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-aminomethyl-5-chloro-3-(2,6-difluorophenyl)indole | NCC=1NC2=CC=C(C=C2C1C1=C(C=CC=C1F)F)Cl | C15H11ClF2N2
